US05177216
A similar procedure as in Example 1(1) was performed by using 6.7 g of N-4-nitrobenzenesulfonyl-L-proline and 5.7 g of (±)-trans-3-bromo-6-cyano-3,4-dihydro-2,2-dimethyl-2H-1-benzopyran-4-ol to give 4.72 g of trans-3-bromo-6-cyano-3,4-dihydro-2,2-dimethyl-4-(N-4-nitrobenzenesulfonyl-L-prolyloxy)-2H-1-benzopyran as a sparingly soluble diastereomer compound, melting at 226.5°-227° C. with decomposition, [α]23D =+44.7° (c=1, CHCl3) and 5.01 g of the corresponding readily soluble diastereomer compound, melting at 177°-180° C., [α]23D =-93.2° (c=1, CHCl3), respectively.

reactant | N-4-nitrobenzenesulfonyl-L-proline | 6.7 g | [N+](=O)([O-])C1=CC=C(C=C1)S(=O)(=O)N1[C@H](C(=O)O)CCC1 | C11H12N2O6S
reactant | (±)-trans-3-bromo-6-cyano-3,4-dihydro-2,2-dimethyl-2H-1-benzopyran-4-ol | 5.7 g | Br[C@@H]1C(OC2=C([C@H]1O)C=C(C=C2)C#N)(C)C | C12H12BrNO2
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
product | trans-3-bromo-6-cyano-3,4-dihydro-2,2-dimethyl-4-(N-4-nitrobenzenesulfonyl-L-prolyloxy)-2H-1-benzopyran | 4.72 g | Br[C@@H]1C(OC2=C([C@H]1OC([C@H]1N(CCC1)S(=O)(=O)C1=CC=C(C=C1)[N+](=O)[O-])=O)C=C(C=C2)C#N)(C)C | C23H22BrN3O7S
